US08293751B2
Compound 4,6-Dichloro-pyrimidine-5-carbaldehyde (8.6 g, 0.049 mmol), anhydrous ethylene glycol (8.2 ml) and p-Toluene-sulfonic acid (150 mg) were mixture in benzene (200 mL) and heated under reflux for 3 hours. Concentrate under high vacuum, worked up with chloroform, water, sodium bicarbonate and sodium chloride, concentrate. The reaction mixture was purified on silica (CH2Cl2) to give 4,6-Dichloro-5-[1,3]dioxolan-2-yl-pyrimidine (8.86 g, 82.5%). 1H NMR 400 MHz CDCl3 δ(ppm): 8.8 (s, 1H), 6.3 (s, 1H), 4.3 (m, 2H), 4.1 (m, 2H).

reactant | 4,6-Dichloro-pyrimidine-5-carbaldehyde | 0.049 mmol, 8.6 g | ClC1=NC=NC(=C1C=O)Cl | C5H2Cl2N2O
reactant | ethylene glycol | 8.2 ml | C(CO)O | C2H6O2
reactant | p-Toluene-sulfonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | 4,6-Dichloro-5-[1,3]dioxolan-2-yl-pyrimidine | 8.86 g, 82.5% | ClC1=NC=NC(=C1C1OCCO1)Cl | C7H6Cl2N2O2
